US07838543B2
Step 3. 4-Cyclopentyl-N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-benzamide
The title compound is prepared by following General Method A, using 4-cyclopentyl-benzoic acid (0.099 g, 0.52 mmol), and N*2*-(2-Dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine (0.10 g, 0.40 mmol) to give 0.38 g (23%) of product. LC/MS: Retention time=4.97 min; (m/z): calcd for C24H30N4OS (M+H)+: 423.6; found: 423.0.

reactant | 4-cyclopentyl-benzoic acid | 0.52 mmol, 0.099 g | C1(CCCC1)C1=CC=C(C(=O)O)C=C1 | C12H14O2
reactant | N*2*-(2-Dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine | 0.40 mmol, 0.10 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)N)C)C | C12H18N4S
product | 4-Cyclopentyl-N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-benzamide | C1(CCCC1)C1=CC=C(C(=O)NC2=CC3=C(N=C(S3)N(C)CCN(C)C)C=C2)C=C1 | C24H30N4OS
